US07666888B2
5-(3-Chlorophenyl)-N-[4-(trifluoromethoxy)benzyl]isoxazole-4-carboxamide
The title compound was prepared from 5-(3-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 4-(trifluoromethoxy)benzylamine (11.5 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method B to give a solid (4.5 mg). MS (pos) m/z 397.0 (M+H).

reactant | 5-(3-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC=1C=C(C=CC1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 4-(trifluoromethoxy)benzylamine | 0.060 mmol, 11.5 mg | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
product | 5-(3-Chlorophenyl)-N-[4-(trifluoromethoxy)benzyl]isoxazole-4-carboxamide | ClC=1C=C(C=CC1)C1=C(C=NO1)C(=O)NCC1=CC=C(C=C1)OC(F)(F)F | C18H12ClF3N2O3
